US07576115B2
3) Synthesis of 4-({2-[[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl](phenyl)methylene]hydrazino}carbonyl)benzoic acid
To methyl 4-({2-[[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl] (phenyl)methylene]hydrazino}carbonyl)benzoate (0.196 mmol, 100 mg), methanol (4 mL) was added, and 1 M aqueous sodium hydroxide (0.981 mmol, 0.981 mL) was added at room temperature. After 15 minutes of stirring at room temperature and 1 hour of stirring at 60° C., the reactor was cooled to room temperature, and 1 M hydrochloric acid (0.981 mmol, 0.981 mL) and water were added. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump to give the desired product as a yellow solid (93 mg, yield 95%).

reactant | methyl 4-({2-[[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl] (phenyl)methylene]hydrazino}carbonyl)benzoate | 0.196 mmol, 100 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(=NNC(=O)C1=CC=C(C(=O)OC)C=C1)C1=CC=CC=C1)O | C30H30N4O4
reactant | methanol | 4 mL | CO | CH4O
reactant | sodium hydroxide | 0.981 mmol, 1 M, 0.981 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.981 mmol, 1 M, 0.981 mL | Cl | ClH
solvent | water | O | H2O
product | 4-({2-[[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl](phenyl)methylene]hydrazino}carbonyl)benzoic acid | 93 mg, yield 95% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(=NNC(=O)C1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1)O | C29H28N4O4
